US08053581B2
Step 3: Preparation of 4-(4-fluoro-phenyl)-5-(4-nitro-benzyl)-thiazol-2-ylamine
A procedure similar to step 5 of Example 6 was used. 2-bromo-1-(4-fluoro-phenyl)-3-(4-nitro-phenyl)-propan-1-one prepared in the step 2, thiourea and anhydrous sodium acetate were used as starting materials. The obtained crude product was recrystallized with a solvent mixture of ethyl acetate and acetone to give a product, which was a yellow solid in a yield of 71.4%, mp: 217-218 └. 1H-NMR (DMSO-d6, 400 MHz) δ: 4.22 (2H, s, CH2), 6.99 (2H, s, NH2), 7.21 (2H, t, 3JFH=3JHH=8.72 Hz, ArH), 7.47 (2H, d, J=8.96 Hz, ArH), 8.03 (2H, dd, 3JHH=9.02, 4JFH=5.60 Hz, ArH), 8.19 (2H, d, J=8.68 Hz, ArH); EI-MS m/e (%): 329.1 (M+, 100), 207.0 (21); HREI-MS Calcd. for C16H12FN3O2S: 329.0634. found: 329.0627. Anal. Calcd. for C16H12FN3O2S: C, 58.35; H, 3.67; N, 12.76. found: C, 58.61; H, 3.52; N, 12.61.

reactant | 2-bromo-1-(4-fluoro-phenyl)-3-(4-nitro-phenyl)-propan-1-one | BrC(C(=O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)[N+](=O)[O-] | C15H11BrFNO3
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 4-(4-fluoro-phenyl)-5-(4-nitro-benzyl)-thiazol-2-ylamine | yield of 71.4% | FC1=CC=C(C=C1)C=1N=C(SC1CC1=CC=C(C=C1)[N+](=O)[O-])N | C16H12FN3O2S
